US07115611B2
E] 2-{4-[2-Methoxymethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester
To 0.097 g (0.407 mmol) of 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) and 0.145 g (0.459 mmol) of the above prepared 3-chloromethyl-2-methoxymethyl-6-(4-trifluoromethyl-phenyl)-pyridine, dissolved in 2.5 ml of abs. acetonitrile, was added 0.180 g of Cs2CO3 (0.552 mmol). The reaction was stirred for 22 h at ambient temperature. Pouring onto crashed ice/NH4Cl-solution, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=88/12), gave 0.214 g of pure title compound as colorless oil.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.407 mmol, 0.097 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | 3-chloromethyl-2-methoxymethyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)COC | C15H13ClF3NO
reactant | Cs2CO3 | 0.552 mmol, 0.180 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-{4-[2-Methoxymethyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | 0.214 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)COC)C)=O | C28H30F3NO5
